US07442708B2
Synthesis of tert-butyl 3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl(methyl)carbamate
3.05 g (7.2 mmol) of tert-butyl 3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-ylcarbamate in solution in 50 ml of tetrahydrofuran are added dropwise to 315 mg (7.9 mmol) of sodium hydride (at 60% as a dispersion in oil) in suspension in 10 ml of tetrahydrofuran, cooled to 0° C. After stirring for 1 hour at 0° C., 0.59 ml (9.5 mmol) of methyl iodide is added while the medium is maintained at 0° C. It is allowed to return to room temperature and it is stirred for 1 hour. The reaction medium is poured over a saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic phase is separated after settling out, washed with a saturated aqueous sodium chloride solution, dried over sodium sulphate and concentrated under reduced pressure. 3.47 g of an orange-coloured foam are obtained.

reactant | tert-butyl 3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-ylcarbamate | 7.2 mmol, 3.05 g | COC=1C=C(C(=O)C2=C(C(=C3C=CC=CN23)NC(OC(C)(C)C)=O)C)C=CC1[N+](=O)[O-] | C22H23N3O6
reactant | sodium hydride | 7.9 mmol, 315 mg | [H-].[Na+]
reactant | methyl iodide | 9.5 mmol, 0.59 ml | CI | CH3I
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl 3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl(methyl)carbamate | 3.47 g, Yield: 96% | COC=1C=C(C(=O)C2=C(C(=C3C=CC=CN23)N(C(OC(C)(C)C)=O)C)C)C=CC1[N+](=O)[O-] | C23H25N3O6
